US04703054
3-(2-Acetamidoacetyl)-2,2-dimethyl-5-oxo-1-imidazolidineacetamide
A solution of 3-(2-aminoacetyl)-2,2-dimethyl-5-oxo-1-imidazolidineacetamide (2 g) in acetic anhydride (10 ml) was stirred at 80° C. for 5 minutes. After cooling, the precipitate was collected and washed with acetone, affording the title compound as a white powder, m.p. 222° C. dec.

reactant | 3-(2-aminoacetyl)-2,2-dimethyl-5-oxo-1-imidazolidineacetamide | 2 g | NCC(=O)N1C(N(C(C1)=O)CC(=O)N)(C)C | C9H16N4O3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(2-Acetamidoacetyl)-2,2-dimethyl-5-oxo-1-imidazolidineacetamide | C(C)(=O)NCC(=O)N1C(N(C(C1)=O)CC(=O)N)(C)C | C11H18N4O4
